US08541457B2
To a solution of tert-butyl 5-(benzylcarbamoyl)-4-methylthiazol-2-yl(methyl)carbamate (0.030 g, 0.083 mmol) in dichloromethane (1 mL) was added trifluoroacetic acid (1 mL) and the resultant mixture was stirred at ambient temperature for 4 h. Toluene (0.5 mL) was added and the reaction mixture was concentrated in vacuo. The residue was triturated with diethyl ether and concentrated in vacuo and dried in vacuum. The crude N-benzyl-4-methyl-2-(methylamino)thiazole-5-carboxamide was obtained and used directly in the next step.

reactant | tert-butyl 5-(benzylcarbamoyl)-4-methylthiazol-2-yl(methyl)carbamate | 0.083 mmol, 0.030 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N(C(OC(C)(C)C)=O)C)C | C18H23N3O3S
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | Toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-benzyl-4-methyl-2-(methylamino)thiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC)C | C13H15N3OS
